US09108952B2
To a solution of 4-chloro-N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine HCl salt (288 mg, 1 mmol) and DMAP (305 mg, 2.500 mmol) in CH2ClCH2Cl (1 mL) was added 3-(methylthio)propanoyl chloride (166 mg, 1.200 mmol), and the mixture stirred at room temperature for 1 h. The mixture was diluted with ethyl acetate, mixed with aqueous NaHCO3 (10 mL). The organic phase was separated, rinsed with brine (2×), dried over MgSO4 and concentrated in vacuo to give a yellow gum. This gum was purified on reverse phase column chromatography (C-18, CH3CN/H2O) to give N-(4-chloro-2-(pyridin-3-yl)thiazol-5-yl)-N-cyclopropyl-3-(methylthio)propanamide (82 mg, 22%) as a brown gum: 1H NMR (400 MHz, CDCl3) δ 9.10 (s, 0.6H), 9.02 (s, 0.4H), 8.71 (s, 6H), 8.61 (d, J=3.4 Hz, 0.4H), 8.21 (d, J=7.6 Hz, 1H), 8.19-8.10 (m, 1H), 7.41 (d, J=5.6, 0.6H), 7.35 (dd, J=8.3, 4.5 Hz, 0.4H), 3.16 (bs, 1H), 2.91 (s, 3H), 2.88-2.72 (m, 2H), 2.11 (m, 2H), 0.85 (m, 4H); ESIMS (m/z) 354.56 ([M+H]+).

reactant | 4-chloro-N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine HCl salt | 1 mmol, 288 mg | Cl.ClC=1N=C(SC1NC1CC1)C=1C=NC=CC1
reactant | 3-(methylthio)propanoyl chloride | 1.200 mmol, 166 mg | CSCCC(=O)Cl | C4H7ClOS
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 2.500 mmol, 305 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-chloro-2-(pyridin-3-yl)thiazol-5-yl)-N-cyclopropyl-3-(methylthio)propanamide | 82 mg, 22% | ClC=1N=C(SC1N(C(CCSC)=O)C1CC1)C=1C=NC=CC1 | C15H16ClN3OS2
